US06777418B2
To a solution of 10.2 g (31.55 mmol) of 2-bromo-3-(3-hydroxypropyl)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalene in 80 mL of dimethlformamide was added 9.46 g (138.8 mmol) of imidazole and 10.46 g (69.4 mmol) of tert-butyldimethylsilyl chloride. After 4 hours the reaction mixture was diluted with diethyl ether and washed with 1 N aqueous ammonium chloride and brine. The organic fraction was dried over sodium sulfate and then concentrated under reduced pressure. The residue was purified by flash chromatography on silica gel (gradient elution: 1-2% ethyl acetate/hexane) to afford 9.17 g (66%) of 2-bromo-3-(3-t-butyldimethylsiloxypropyl)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalene.

reactant | 2-bromo-3-(3-hydroxypropyl)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalene | 31.55 mmol, 10.2 g | BrC1=CC=2C(CCC(C2C=C1CCCO)(C)C)(C)C | C17H25BrO
reactant | imidazole | 138.8 mmol, 9.46 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 69.4 mmol, 10.46 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | dimethlformamide | 80 mL | CN(C=O)C | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-bromo-3-(3-t-butyldimethylsiloxypropyl)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalene | 9.17 g, 66% | BrC1=CC=2C(CCC(C2C=C1CCCO[Si](C)(C)C(C)(C)C)(C)C)(C)C | C23H39BrOSi
